US07612075B2
C. 4-benzyloxycarbonyl-3-(S)-methoxymethyl-1-[(2-methylthiopyrimidin-5-yl)-methyl]-piperazine-2-one
4-Benzyloxycarbonyl-3-(S)-methoxymethyl-piperazine-2-one (0.1 g 0.37 mmol), 5-bromomethyl-2-methylthiopyrimidine (0.08 g, 0.37 mmol) and tetra-n-butylammonium bromide (0.06 g, 0.19 mmol) are placed in dichloromethane (1 mL) and 50% aqueous NaOH (0.03 mL) and stirred for 4 h. The mixture is diluted with water and is extracted with dichloromethane (2×20 mL). The combined organic extracts are dried (MgSO4) and are evaporated. The residue is purified by flash chromatography (silica gel, 98:2 dichloromethane/methanol) to provide the intermediate title compound as a colorless oil (0.05 g, 33%).

reactant | 4-Benzyloxycarbonyl-3-(S)-methoxymethyl-piperazine-2-one | 0.37 mmol, 0.1 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(NCC1)=O)COC | C14H18N2O4
reactant | 5-bromomethyl-2-methylthiopyrimidine | 0.37 mmol, 0.08 g | BrCC=1C=NC(=NC1)SC | C6H7BrN2S
reactant | NaOH | 0.03 mL | [OH-].[Na+]
catalyst | tetra-n-butylammonium bromide | 0.19 mmol, 0.06 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-benzyloxycarbonyl-3-(S)-methoxymethyl-1-[(2-methylthiopyrimidin-5-yl)-methyl]-piperazine-2-one | 0.05 g, 33% | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CC=1C=NC(=NC1)SC)=O)COC | C20H24N4O4S
